US06271265B1
Synthesis of N-n-Butyl trans-2-Phenyl-1-cyclopropanecarboxamide
Following the procedure of Example 1 above and using trans-2-phenyl-1-cyclopropanecarbonyl chloride and n-butylamine (and ethyl acetate in place of benzene), the title compound was prepared as a waxy white solid.

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | n-butylamine | C(CCC)N | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-n-Butyl trans-2-Phenyl-1-cyclopropanecarboxamide | C(CCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C14H19NO
